US03950376
3-Benzylsulfonyl-4-chloro-5-sulfamylbenzoic acid
A mixture of 3-benzylthio-4-chloro-5-sulfamylbenzoic acid (0.75 g), acetic acid (25 ml), and hydrogen peroxide (2 ml of an 30% aqueous solution) is stirred for 2 days at room temperature. Addition of water (100 ml) precipitates 3-benzylsulfonyl-4-chloro-5-sulfamylbenzoic acid. After collection by filtration and recrystallization from aqueous ethanol the compound crystallizing with one mole of water, is obtained with a melting point of 236° - 237° C.

reactant | 3-benzylthio-4-chloro-5-sulfamylbenzoic acid | 0.75 g | C(C1=CC=CC=C1)SC=1C=C(C(=O)O)C=C(C1Cl)S(N)(=O)=O | C14H12ClNO4S2
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 100 ml | O | H2O
reactant | water | one mole | O | H2O
product | 3-Benzylsulfonyl-4-chloro-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)S(=O)(=O)C=1C=C(C(=O)O)C=C(C1Cl)S(N)(=O)=O | C14H12ClNO6S2
